US05043339
(b) 2-((4-amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(L-valinate)
To a cool mixture of 3.44 g of 2-((4-amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(N-((benzyloxy)carbonyl)-L-valinate) and 7 g of 10% palladium catalyst in acetic acid was slowly added 8.65 mL of 1,4-cyclohexadiene. The mixture was allowed to stir at room temperature for 18 h. The reaction mixture was filtered through a pad of Celite. The filtrate was then concentrated and dried in the lyophilizer for 48 h. The resulting beige foam was scraped off affording 2.38 g (68%, as the acetic acid salt) of the title compound. The elemental analysis (showing 2M of acetic acid and 1M of water) UV, 1H, 13C-NMR spectra were consistent with the title structure.

reactant | 2-((4-amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(N-((benzyloxy)carbonyl)-L-valinate) | 3.44 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)OCN1C(N=C(C=C1)N)=O | C34H43N5O10
reactant | 1,4-cyclohexadiene | 8.65 mL | C1=CCC=CC1 | C6H8
catalyst | palladium | 7 g | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-((4-amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(L-valinate) | N[C@@H](C(C)C)C(=O)OCC(COC([C@@H](N)C(C)C)=O)OCN1C(N=C(C=C1)N)=O | C18H31N5O6
